US09227980B2
CB[6].
Here, the alkylimidazolium compound forms a complex with CB[8]. The complex is preferably water soluble, thereby to allow separation from CB[6], which is insoluble in water.

reactant | CB[8] | C1N2C3C4N(C2=O)CN5C6C7N(C5=O)CN8C9C2N(C8=O)CN5C8C%10N(C5=O)CN5C%11C%12N(C5=O)CN5C%13C%14N(C5=O)CN5C%15C%16N(C5=O)CN5C%17C(N1C5=O)N1CN3C(=O)N4CN6C(=O)N7CN9C(=O)N2CN8C(=O)N%10CN%11C(=O)N%12CN%13C(=O)N%14CN%15C(=O)N%16CN%17C1=O | C48H48N32O16
solvent | water | O | H2O
product | CB[6] | C1N2C3C4N(C2=O)CN5C6C7N(C5=O)CN8C9C2N(C8=O)CN5C8C%10N(C5=O)CN5C%11C%12N(C5=O)CN5C%13C(N1C5=O)N1CN3C(=O)N4CN6C(=O)N7CN9C(=O)N2CN8C(=O)N%10CN%11C(=O)N%12CN%13C1=O | C36H36N24O12
